US04147805
A solution of 4-(methylthio)phenol (10.0 g, 0.071 mole) in 150 ml. of 1,2-dimethoxyethane is added to a slurry of a 57% dispersion of sodium hydride (3.0 g., 0.071 mole) in mineral oil (previously washed with hexane to remove the mineral oil) in 100 ml. of 1,2-dimethoxyethane. After the initial reaction is complete, 1-bromo-3-chloropropane (12.63 g., 0.08 mole) is added in one portion. The resulting mixture is stirred and refluxed for a period of 68 hrs., cooled and then concentrated under reduced pressure. Residual material (oil) is dissolved in ether and washed with water. The ether solution (after drying over magnesium sulfate) is concentrated under reduced pressure to provide 14.6 g. of an oil containing approximately 25% starting phenol according to NMR spectra. Distillation of the oil under reduced pressure affords, after a forerun of 4-(methylmercapto)phenol, 5.0 g. (32% yield) of 1-chloro-3-[4-(methylthio)phenoxy]propane, b.p. 150°-152° C. at 27 mm Hg.

reactant | 4-(methylthio)phenol | 0.071 mole, 10.0 g | CSC1=CC=C(C=C1)O | C7H8OS
reactant | sodium hydride | 0.071 mole, 3.0 g | [H-].[Na+]
reactant | 1-bromo-3-chloropropane | 0.08 mole, 12.63 g | BrCCCCl | C3H6BrCl
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
solvent | 1,2-dimethoxyethane | COCCOC | C4H10O2
product | 1-chloro-3-[4-(methylthio)phenoxy]propane | 32% yield | ClCCCOC1=CC=C(C=C1)SC | C10H13ClOS
